US08217035B2
Synthesis of 6-(1-isopropylpiperidin-4-yloxy)pyridin-3-amine
2-(1-Isopropylpiperidin-4-yloxy)-5-nitropyridine (1 eq) was dissolved in methanol and laced under a nitrogen atmosphere. A catalytic amount of 10% palladium on carbon was added and a hydrogen balloon connected to the reaction flask. The flask was flushed five times with hydrogen and stirred at room temperature for 4 hours under hydrogen atmosphere. The solid was filtered and washed with methanol. The filtrate was evaporated under reduced pressure yielding the product as a brown oil. LC/MS (m/z): 236.3 (MH+), Rt 0.38 minutes.

reactant | 2-(1-Isopropylpiperidin-4-yloxy)-5-nitropyridine | 1 eq | C(C)(C)N1CCC(CC1)OC1=NC=C(C=C1)[N+](=O)[O-] | C13H19N3O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 6-(1-isopropylpiperidin-4-yloxy)pyridin-3-amine | C(C)(C)N1CCC(CC1)OC1=CC=C(C=N1)N | C13H21N3O
